US04824958
Methyl 3-(1-methylethoxy)-1H-pyrrole-2-carboxylate.
Methyl 3-hydroxy-1H-pyrrole-2-carboxylate (2.0 g, 0.014 moles) is dissolved in DMF (15 mL) under nitrogen. Potassium carbonate (2.8 g, 0.020 moles) is added followed by 2-bromopropane (5 mL, 0.05 moles) and the mixture is stirred at room temperature for 18 hours, then at 50° C. for 3 hours, then stirred into ice water (400 mL). The mixture is extracted with CH2Cl2 (3x) and the combined extracts are washed with brine (2x) and dried over MgSO4. Removal of the solvent under reduced pressure leaves the crude product as a crystalline residue. Recrystallization from ether gave the pure product (1.6 g); mp 77°-79° C.

reactant | Methyl 3-hydroxy-1H-pyrrole-2-carboxylate | 0.014 moles, 2.0 g | OC1=C(NC=C1)C(=O)OC | C6H7NO3
reactant | Potassium carbonate | 0.020 moles, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 0.05 moles, 5 mL | BrC(C)C | C3H7Br
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Methyl 3-(1-methylethoxy)-1H-pyrrole-2-carboxylate | 1.6 g | CC(C)OC1=C(NC=C1)C(=O)OC | C9H13NO3
